US06194449B1
2-Amino-3-(4-chloro-benzoyl)-6-[4-nitro-(2-phenyleth-1-yl)]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine: Compound 21
The same procedure as in Example 17 was used except an equivalent amount of 2-amino-3-(4-chloro-benzoyl) 4,5,6,7-tetrahydrothieno[2,3-c]pyridine is used in place of 2-Amino-3-benzoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (2 mmol), and an equivalent amount of p-nitrophenylethyl iodide was used in place of methyl iodide (3 mmol).

reactant | 2-amino-3-(4-chloro-benzoyl) 4,5,6,7-tetrahydrothieno[2,3-c]pyridine | NC1=C(C2=C(CNCC2)S1)C(C1=CC=C(C=C1)Cl)=O | C14H13ClN2OS
reactant | p-nitrophenylethyl iodide | [N+](=O)([O-])C1=CC=C(C=C1)CCI | C8H8INO2
product | 2-Amino-3-(4-chloro-benzoyl)-6-[4-nitro-(2-phenyleth-1-yl)]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | NC1=C(C2=C(CN(CC2)CCC2=CC=C(C=C2)[N+](=O)[O-])S1)C(C1=CC=C(C=C1)Cl)=O | C22H20ClN3O3S
